US07504412B2
4-(2-pyridyl)benzenecarboxylic acid
Production Example 14 was repeated except that 4-carboxyphenylboronic acid and 2-bromopyridine were used, to provide the title compound as white solid.

reactant | 4-carboxyphenylboronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 4-(2-pyridyl)benzenecarboxylic acid | N1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C12H9NO2
